US05731315
A. 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-methylamide
5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide (0.25 g, 0.56 mmol) is dissolved in 6 mL of DMF and cooled to 0° C. To the solution is added methyl iodide (0.40 g, 2.82 mmol) and sodium hydride (25 mg of a 60% dispersion in mineral oil, 0.62 mmol). The reaction mixture is allowed to warm to room temperature and is stirred for 2 h. At this time, the solution is diluted with and EtOAc and the layers are separated. The organic layer is washed with 1N HCl, H2O, saturated NaHCO3 solution and saturated NaCl. The organic phase is then dried over MgSO4, filtered and concentrated to give the title compound (0.25 g, 0.54 mmol) as a solid.

reactant | 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.56 mmol, 0.25 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=NC(=CC=C3S2)Cl)=O)C=CC1 | C19H15ClN4O3S2
reactant | methyl iodide | 2.82 mmol, 0.40 g | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-methylamide | 0.54 mmol, 0.25 g | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=NC(=CC=C3S2)Cl)C)=O)C=CC1 | C20H17ClN4O3S2
